US06949648B2
N-[3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]-N-propylamine
A mixture of 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (1.47 g, 5.00 mmol) and propylamine (2.96 g, 50.0 mmol) was heated and stirred at 100° C. for 6 hours in a sealed stainless tube. The solution was allowed to cool to room temperature and poured into water, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue thus obtained was purified by basic silica gel column chromatography (hexane:ethyl acetate=1:1), and the resulting crystals were recrystallized from ethyl acetate/hexane to give the title compound (1.14 g, 72% yield).

reactant | 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 5.00 mmol, 1.47 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | propylamine | 50.0 mmol, 2.96 g | C(CC)N | C3H9N
solvent | water | O | H2O
product | N-[3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]-N-propylamine | 1.14 g, 72% yield | CC1=NN(C2=NC3=CC=CC=C3C(=C21)NCCC)C2=NC=CC=C2 | C19H19N5
